US08138340B2
d) Cyclopropyl-(2-methoxy-3-methylpyridin-4-ylmethyl)amine
A mixture of (2-chloro-3-methylpyridin-4-ylmethyl)cyclopropylamine (10.0 g, 50.8 mmol) and sodium methoxide (13.73 g, 254 mmol) in dioxan (40 mL) was heated to reflux for 48 h. The reaction mixture was filtered through Celite, and the remaining solid was washed with Et2O (2×). The solvents were removed under reduced pressure. Purification by FC yielded the title compound (8.8 g, 90%) as a pale, yellow liquid.

reactant | (2-chloro-3-methylpyridin-4-ylmethyl)cyclopropylamine | 50.8 mmol, 10.0 g | ClC1=NC=CC(=C1C)CNC1CC1 | C10H13ClN2
reactant | sodium methoxide | 254 mmol, 13.73 g | C[O-].[Na+]
solvent | dioxan | 40 mL | O1CCOCC1 | C4H8O2
product | Cyclopropyl-(2-methoxy-3-methylpyridin-4-ylmethyl)amine | 8.8 g, 90% | C1(CC1)NCC1=C(C(=NC=C1)OC)C | C11H16N2O
